data/specific_train_final.csv
"[CH3:1][C:2]([CH2:11][O:12][N+:13](=[O:15])[O-:14])([CH:3]([CH:8]=[O:9])[O:4][O:5][N:6]=[O:7])[OH:10]>>[CH3:1][C:2]([CH2:11][O:12][N+:13](=[O:15])[O-:14])([CH:3]([CH:8]=[O:9])[O:4])[OH:10].[N:6](=[O:7])[O:5] 4,5-4; 4,5-5",Room Temperature,Initiation,homolyze
"CC(CO)[O:20][O:21]N=O>>CC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)CC(C)[O:20][O:21][O].[N+](=O)[O-]>>CC(C)CC(C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CCO[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)(CCO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C=C[CH:10]C1O)C.[O:20][O]>>CCC1=C(C=C[CH:10](C1O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C1=CC=C(C=C1)CO[O:10]>>[H:20][O:10]OCC1=CC=CC=C1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][O:2][CH2:3][C:4]([CH3:14])([CH:5]([CH:10]=[O:11])[O:6][O:7][N:8]=[O:9])[O:12][H:13]>>[H:1][O:2][CH2:3][C:4]([CH3:14])([CH:5]([CH:10]=[O:11])[O:6])[O:12][H:13].[N:8](=[O:9])[O:7] 6,7-7; 6,7-6",Room Temperature,Initiation,homolyze
"[H][C:8]([H])([CH:6]([C]([CH3])([CH2][OH])[O][N+](=[O])[O-])[O:7])[O][H]>>[H][CH:8][O][H].[CH3][C]([CH2][OH])([CH:6]=[O:7])[O][N+](=[O])[O-] 8,6-8;8,6-6,7;7-6,7",Room Temperature,Propagation,retroaddition
[CH3:6][C:5]([CH3:7])([C:2]([CH3:3])([CH3:4])[O:1])[OH:8].[N:10](=[O:11])[O:9]>>[CH3:6][C:5]([CH3:7])([C:2]([CH3:3])([CH3:4])[O:1])[OH:8].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"[H:20][O:21]C1=C(C=CC(=C1)C)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC1=C(C=C(C=C1)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:21]=[CH:20]Cl.[OH:10]>>[CH2:21][CH:20]([OH:10])Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(=CC[O:21][O:20][O])CO[N+](=O)[O-].[N+](=O)[O-]>>CC(=CC[O:21])CO[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C(CO[N+](=O)[O-])[O:20][O:21]N=O)O>>CC(C)(C(CO[N+](=O)[O-])[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:9][C:8](=[C:10]([H:12])[OH:11])[C:3]([CH3:7])([CH2:4][O:5][OH:6])[O:2][O:1]>>[H:9][C:8](=[C:10]([H:12])[OH:11])[C:3]([CH3:7])[CH2:4][O:5][OH:6].[O:1][O:2] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21]N=O)Cl)O>>C(C([O:20])Cl)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(=O)C(C(O)O)O[O:10]>>[H:20][O:10]OC(C(O)O)C(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(COCO[O:20])O.[N+](=O)([O-])[O:10]>>C(COCO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=[CH:21][C:20](=O)[O:10])CO[N+](=O)[O-]>>CC(=[CH:21])CO[N+](=O)[O-].[C:20](=O)=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:13][CH:6]([CH2:5][O:4][C:2](=[O:1])[CH3:3])[O:7][O:8][O:9][N+:10](=[O:12])[O-:11]>>[CH3:13][CH:6]([CH2:5][O:4][C:2](=[O:1])[CH3:3])[O:7][O:8][O:9].[N+:10](=[O:12])[O-:11] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC1(C=CC2C(C1(OO2)C)O)O[O:10]>>[H:20][O:10]OC1(C=CC2C(C1(OO2)C)O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][OH:2].[CH2:3]=[CH:4][C:5]=[O:6].[O:7][O:8]>>[H:1][OH:2].[CH2:3]=[CH:4][C:5](=[O:6])[O:8][O:7] 5-5,8; 8-8,5",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)O[O:20].[N:10]=O>>CC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1(C2CCC(C1C2)(CO[O:10])O[N+](=O)[O-])C>>[H:20][O:10]OCC1(CCC2CC1C2(C)C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(O[O:20])(Cl)Cl)(O)(Cl)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)(Cl)Cl)(O)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1(C(O1)/C=C\C(=O)CC)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC(=O)/C=C\C1C(O1)(C)[C:21]=O 20,21-20,10; 20,21-21; 10-20,10",Room Temperature,Propagation,abstraction
"CC12C=CC(C(C1O)OO2)(C)O[O:20].[N:10]=O>>CC12C=CC(C(C1O)OO2)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C([CH:10]C(C=C1O)O)C.[O:20][O]>>CCC1=C([CH:10](C(C=C1O)O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C(O[O:10])Cl)Cl>>[H:20][O:10]OC(CCl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:9][CH:8]([CH3:10])[CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:9][CH:8]([CH3:10])[CH:6]([CH3:7])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
